US05442063
85% Potassium hydroxide (0.79 g, 12.0 mmol) and toluene (20 ml) were added to (E)-2-(2-phenoxyphenyl)-2-methoxyiminoacetamide (2.70 g, 10.0 mmol) and dissolved by heating to 50° C. After 10 minutes, the solution was concentrated under reduced pressure. Toluene (20 ml) was added to the residue, and dimethyl sulfate (1.32 ml, 14.0 mmol) was added dropwise under ice-cooling and reacted at room temperature for 1 hour. After completion of the reaction, water (100 ml) was added. The mixture was extrcted with ether (150 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give (E)-2-(2-phenoxyphenyl)-2-methoxyimino-N-methylacetamide (2.33 g, Yield: 82.1%).

reactant | Potassium hydroxide | 12.0 mmol, 0.79 g | [OH-].[K+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | (E)-2-(2-phenoxyphenyl)-2-methoxyiminoacetamide | 10.0 mmol, 2.70 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)\C(\C(=O)N)=N/OC | C15H14N2O3
reactant | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | dimethyl sulfate | 14.0 mmol, 1.32 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | (E)-2-(2-phenoxyphenyl)-2-methoxyimino-N-methylacetamide | 2.33 g, Yield: 82.1% | O(C1=CC=CC=C1)C1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C16H16N2O3
